US05604229
A solution of 1.1 g of 4-(4-butylphenyl)butanol, 1.05 g of tosyl chloride, 0.48 ml of pyridine and a catalytic amount of dimethylaminopyridine in dichloromethane was allowed to stand at room temperature overnight. The reaction mixture was poured into 50 ml of ice water and extracted with chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was distilled away. The residue was purified by silica gel column chromatography (ethyl aeetate:hexane=1:6) to give 1.2814 g of 4-(4-butylphenyl)butyl p-toluenesulfonate as a colorless, oily substance.

reactant | 4-(4-butylphenyl)butanol | 1.1 g | C(CCC)C1=CC=C(C=C1)CCCCO | C14H22O
reactant | tosyl chloride | 1.05 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | pyridine | 0.48 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(4-butylphenyl)butyl p-toluenesulfonate | 1.2814 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCC1=CC=C(C=C1)CCCC)C | C21H28O3S
